US04178449
6-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A mixture of 1.84 g, of 3-aminopyrazole, 50 ml. of glacial acetic acid, 1.80 g. of sodium acetate and 7.90 g. of 3-dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone perchlorate is refluxed for 6 hours and then evaporated. The residue is reacted as described in Example 1, giving the desired product, m.p. 168°-169° C.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 3-dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone perchlorate | Cl(=O)(=O)(=O)O.CN(C=C(C(=O)C1=CC(=CC=C1)C(F)(F)F)C)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NC=2N(C1C=1C=C(C=CC1)C(F)(F)F)N=CC2 | C14H10F3N3
